US06949648B2
3-Methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-ylamine hydrochloride
To a solution of 3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-ylamine (1.56 g, 5.65 mmol) in ethanol (5 mL) was added a 4N hydrochloric acid/ethyl acetate solution (10 mL), and the solution was concentrated under reduced pressure. The residue thus obtained was recrystallized from ethanol to give the title compound (1.41 g, 80% yield).

reactant | 3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-ylamine | 5.65 mmol, 1.56 g | CC1=NN(C2=NC3=CC=CC=C3C(=C21)N)C2=NC=CC=C2 | C16H13N5
reactant | hydrochloric acid ethyl acetate | 4N, 10 mL | Cl.C(C)(=O)OCC
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-Methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-ylamine hydrochloride | 1.41 g, 80% yield | Cl.CC1=NN(C2=NC3=CC=CC=C3C(=C21)N)C2=NC=CC=C2 | InChI=1S/C16H13N5.ClH/c1-10-14-15(17)11-6-2-3-7-12(11)19-16(14)21(20-10)13-8-4-5-9-18-13;/h2-9H,1H3,(H2,17,19);1H
